US08017780B1
1-[4-(2-{4-Amino-2-[(6-bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-1-yl}ethyl)piperidin-1-yl]ethanone
The title compound was prepared by a similar procedure described for step 7 of example 1 using 2-[(6-bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-4-amine and 2-(1-acetylpiperidin-4-yl)ethyl 4-methylbenzenesulfonate. 1H NMR (DMSO-d6) δ; 7.70 (d, J=6.0 Hz, 1H), 7.38 (s, 1H), 6.79 (d, J=6.0 Hz, 1H), 6.66 (s, 1H), 6.42 (s, 2H), 6.07 (s, 2H), 4.30 (brd, J=13.2 Hz, 1H), 4.20 (t, J=7.2 Hz, 2H), 3.74 (brd, J=13.2 Hz, 1H), 2.89 (t, J=13.6 Hz, 1H), 2.40 (t, J=13.6 Hz, 1H), 1.96 (s, 3H), 1.66 (m, 2H), 1.56-1.51 (m, 2H), 1.43 (m, 1H), 1.08 (m, 1H), 0.94 (m, 1H); LC-MS [M+H]+ 518.09.

reactant | 2-[(6-bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-4-amine | BrC=1C(=CC2=C(OCO2)C1)SC=1NC2=C(C(=NC=C2)N)N1 | C13H9BrN4O2S
reactant | 2-(1-acetylpiperidin-4-yl)ethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCC1CCN(CC1)C(C)=O | C16H23NO4S
product | 1-[4-(2-{4-Amino-2-[(6-bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-1-yl}ethyl)piperidin-1-yl]ethanone | NC1=NC=CC2=C1N=C(N2CCC2CCN(CC2)C(C)=O)SC2=CC1=C(OCO1)C=C2Br | C22H24BrN5O3S
